US07259266B2
To a solution of 1-methoxy-3-tert-pentylbenzene (3.22 g, 18.1 mmoles) in 100 mL of DCM stirring in −78° C. bath was added dropwise 2.14 mL (5.68 g) of BBr3. The mixture was stirred while warming to room temperature. After 3 h, ice was added, and the organic layer separated, dried over Na2SO4, filtered and evaporated affording 3-tert-pentylphenol, 2.77 g, as an oil.

reactant | 1-methoxy-3-tert-pentylbenzene | 18.1 mmoles, 3.22 g | COC1=CC(=CC=C1)C(C)(C)CC | C12H18O
reactant | BBr3 | 2.14 mL, 5.68 g | B(Br)(Br)Br | BBr3
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | 3-tert-pentylphenol | C(C)(C)(CC)C=1C=C(C=CC1)O | C11H16O
